US08134001B2
In a manner similar to the method described in Example 50a, 5-bromo-2-fluorobenzaldehyde (2.1 g, 10 mmol) (Alfa) was reacted with 4-methoxyphenol (1.24 g, 10 mmol) and K2CO3 in N,N-dimethylacetamide to give 5-bromo-2-(4-methoxy-phenoxy)-benzaldehyde as a white solid (Yield 3.1 g, 92%).

reactant | 5-bromo-2-fluorobenzaldehyde | 10 mmol, 2.1 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 4-methoxyphenol | 10 mmol, 1.24 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-bromo-2-(4-methoxy-phenoxy)-benzaldehyde | Yield 3.1 g, 92% | BrC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)OC | C14H11BrO3
